US06492401B1
Ethyl 5-cyclopropyl-1-(2-chloro-5-{dimethylaminosulfonyl}phenyl)-1H-pyrazole-4-carboxylate
A solution of ethyl 5-cyclopropyl-1-(2-chloro-5-{chlorosulfonyl}phenyl)-1H-pyrazole-4-carboxylate (0.315 g, 0.812 mmol) in CH2Cl2 (3 mL) was treated at 23° C. with dimethylamine (2 M in THF, 3 mL, 6 mmol). The resulting mixture was stirred for 15 min and concentrated in vacuo. The residue was partitioned between EtOAc and HCl (0.1 M aq). The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by Flash 40S™ chromatography (65:35 hexanes-EtOAc) to afford 0.276 g (86% yield) of desired product as a colorless oil.

reactant | ethyl 5-cyclopropyl-1-(2-chloro-5-{chlorosulfonyl}phenyl)-1H-pyrazole-4-carboxylate | 0.812 mmol, 0.315 g | C1(CC1)C1=C(C=NN1C1=C(C=CC(=C1)S(=O)(=O)Cl)Cl)C(=O)OCC | C15H14Cl2N2O4S
reactant | dimethylamine | 6 mmol, 2 M, 3 mL | CNC | C2H7N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-cyclopropyl-1-(2-chloro-5-{dimethylaminosulfonyl}phenyl)-1H-pyrazole-4-carboxylate | 0.276 g, 86% yield | C1(CC1)C1=C(C=NN1C1=C(C=CC(=C1)S(=O)(=O)N(C)C)Cl)C(=O)OCC | C17H20ClN3O4S
